US08222248B2
To a solution of 2,6-dimethyl-4-(1H-tetrazol-5-yl-methoxy)-benzaldehyde (50 mg) in DMSO (1 mL) were added 3,4-diamino-N-(3,4-dimethyl-phenyl)-benzamide (55 mg), Yb(OTf)3 (13 mg), and Cu(OTf)2 (8 mg). The reaction mixture was stirred in open air at ambient temperature overnight. The mixture was then diluted by MeOH and the whole was loaded onto a solid phase extraction (SPE) cartridge that contained strong cation exchange (SCX) (1 g media in 6 mL cartridge, United Chemical Technology). Wash-to-waste (5 mL MeOH) was followed by elute-to-collect (5 mL 20:2:1 ethyl acetate-MeOH-Et3N) and, after evaporation of volatiles, the crude was further purified by silica gel column chromatography to give 2-[2,6-dimethyl-4-(1H-tetrazol-5-yl-methoxy)-phenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide: MS (m/z) 468.16 (M+1).

reactant | 2,6-dimethyl-4-(1H-tetrazol-5-yl-methoxy)-benzaldehyde | 50 mg | CC1=C(C=O)C(=CC(=C1)OCC1=NN=NN1)C | C11H12N4O2
reactant | 3,4-diamino-N-(3,4-dimethyl-phenyl)-benzamide | 55 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)C)C)C=CC1N | C15H17N3O
reactant | Yb(OTf)3 | 13 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Yb+3]
reactant | MeOH | CO | CH4O
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | Cu(OTf)2 | 8 mg | C(F)(F)(F)S(=O)(=O)[O-].C(F)(F)(F)S(=O)(=O)[O-].[Cu+2]
product | 2-[2,6-dimethyl-4-(1H-tetrazol-5-yl-methoxy)-phenyl]-3H-benzoimidazole-5-carboxylic acid (3,4-dimethyl-phenyl)-amide | CC=1C=C(C=CC1C)NC(=O)C1=CC2=C(N=C(N2)C2=C(C=C(C=C2C)OCC2=NN=NN2)C)C=C1 | C26H25N7O2
